US06833370B1
tert-butyl 1-(3-pyridinyl)-3-pyrrolidinylcarbamate
tert-Butyl 3-pyrrolidinylcarbamate (0.099 g, 0.53 mmol; TCI) and 3-bromopyridine (0.050 mL, 0.52 mmol; Aldrich) were processed according to the procedure of Example 1A to provide the title compound (0.092 g, 66%). MS (CI/NH3) m/z 264 (M+H)+.

reactant | tert-Butyl 3-pyrrolidinylcarbamate | 0.53 mmol, 0.099 g | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 3-bromopyridine | 0.52 mmol, 0.050 mL | BrC=1C=NC=CC1 | C5H4BrN
product | tert-butyl 1-(3-pyridinyl)-3-pyrrolidinylcarbamate | 0.092 g, 66% | N1=CC(=CC=C1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H21N3O2
